US05202407
A. Preparation of butyl-tri-p-tolyl- phosphonium bromide catalyst
Into a 50 milliliter glass reactor equipped with a thermometer connected to a temperature controller, a heating mantle, a condenser and a magnetic stirring bar, is charged 5 gms (0.0164 mole) of tri-p-tolyl phosphine and 24 gms of xylene. The slurry is heated to 45° C. then 2.7 gms (0.0197 mole) of 1-bromo butane is added. This reaction mass is heated to 50° C. and maintained at that temperature for 0.65 hour, then heated to 80C and maintained at that temperature for 16.08 hours, then heated to 100C and maintained at that temperature for -.97 hour. The salt is decanted and then vacuum dried. There is obtained 2.098 gms of an oily catalyst.

reactant | tri-p-tolyl phosphine | 0.0164 mole, 5 gms | C1(=CC=C(C=C1)P(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C)C | C21H21P
reactant | 1-bromo butane | 0.0197 mole, 2.7 gms | BrCCCC | C4H9Br
solvent | xylene | 24 gms | C=1(C(=CC=CC1)C)C | C8H10
product | butyl-tri-p-tolyl- phosphonium bromide | [Br-].C(CCC)[P+](C1=CC=C(C=C1)C)(C1=CC=C(C=C1)C)C1=CC=C(C=C1)C | InChI=1S/C25H30P.BrH/c1-5-6-19-26(23-13-7-20(2)8-14-23,24-15-9-21(3)10-16-24)25-17-11-22(4)12-18-25;/h7-18H,5-6,19H2,1-4H3;1H/q+1;/p-1
